US07585875B2
3.2 ml of 2-isopropylpyrazolo[1,5-a]pyridine, 2.2 g of 4-methoxybenzoyl chloride and 200 mg anhydrous AlCl3 were mixed with stirring at room temperature for 4 days. After cooling, 50 ml of ethyl ether was added to the mixture, followed by addition of 4N KOH solution to pH 8-8.5 at 0-5° C. The mixture was extracted with ethyl acetate twice. The combined organic phases were washed with brine and dried over MgSO4. The ethyl acetate was evaporated under reduced pressure to obtain 6.4 g of crude product, which was purified on an aluminum oxide column with hexane-dichloromethane-ethyl acetate as eluant to yield 510 mg (13.6%) of (2-isopropylpyrazolo[1,5-a]pyridin-3-yl)(4-methoxyphenyl)methanone. Compound 1008.

reactant | 2-isopropylpyrazolo[1,5-a]pyridine | 3.2 ml | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | 4-methoxybenzoyl chloride | 2.2 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | AlCl3 | 200 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | KOH | 4N | [OH-].[K+]
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | (2-isopropylpyrazolo[1,5-a]pyridin-3-yl)(4-methoxyphenyl)methanone | 510 mg, 13.6% | C(C)(C)C1=NN2C(C=CC=C2)=C1C(=O)C1=CC=C(C=C1)OC | C18H18N2O2
